US08492582B2
Water (0.20 mL), sodium formate (0.045 g), acetic acid (0.043 mL) and 10% palladium-carbon (8 mg) were added to a dioxane (1 mL) solution of methyl 2-(2-(benzyloxy)-5-(piperidin-1-yl)benzamido)-4-(furan-2-yl)benzoate (0.085 g), followed by stirring at room temperature for 3 hours and 30 minutes and then at 60° C. for 50 minutes. To the reaction mixture, 10% palladium-carbon (8 mg) was added, followed by stirring at 70° C. for 50 minutes. After cooling the reaction mixture to room temperature, the insoluble substance was removed by filtration, and the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the obtained residue, and the solid substance was collected by filtration to obtain 0.048 g of methyl 4-(furan-2-yl)-2-(2-hydroxy-5-(piperidin-1-yl)benzamido)benzoate.

reactant | Water | 0.20 mL | O | H2O
reactant | sodium formate | 0.045 g | C(=O)[O-].[Na+]
reactant | acetic acid | 0.043 mL | C(C)(=O)O | C2H4O2
reactant | methyl 2-(2-(benzyloxy)-5-(piperidin-1-yl)benzamido)-4-(furan-2-yl)benzoate | 0.085 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C=2OC=CC2)C=C(C=C1)N1CCCCC1 | C31H30N2O5
catalyst | palladium-carbon | 8 mg | [C].[Pd]
catalyst | palladium-carbon | 8 mg | [C].[Pd]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | methyl 4-(furan-2-yl)-2-(2-hydroxy-5-(piperidin-1-yl)benzamido)benzoate | 0.048 g | O1C(=CC=C1)C1=CC(=C(C(=O)OC)C=C1)NC(C1=C(C=CC(=C1)N1CCCCC1)O)=O | C24H24N2O5
